US07250442B2
1-(3,4-Dimethoxy-phenyl)-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one
Combine 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one (0.583 g, 0.968 mmol), 3,4-dimethoxybenzeneboronic acid (0.353 g, 1.94 mmol), copper (II) acetate (0.176 g, 0.968 mmol), triethylamine (0.27 mL, 1.94 mmol), 4 angstrom molecular sieves, and dichloromethane (15 mL). Stir at room temperature overnight under ambient atmosphere. Filter the reaction through Celite. Elute through a column of silica gel with 70% dichloromethane in hexanes and concentrate. Dissolve the resulting compound (0.399 g, 0.511 mmol), in THF (4 mL). Add a solution of tetrabutylammonium fluoride (1.0M) in THF (1.35 mL). Stir for 1 h. Add saturated aqueous ammonium chloride(10 mL) water (40 mL) and ethyl acetate (50 mL). Separate the layers and concentrate the organic layer in vacuo. Chromatograph on silica gel eluting with a gradient from 25% to 50% ethyl acetate in hexanes to give 0.153 g (31%) of the title compound: mass spectrum (ion spray): m/z=510(M+1); 1H NMR(DMSO-d6): δ8.23 (s, 2H), 7.31 (d, 1H), 7.21 (td, 1H), 7.11-7.06 (m, 2H), 6.94-6.89 (m, 2H), 6.76-6.74 (m, 5H), 3.80 (s, 3H), 3.75 (s, 3H), 2.07 (s, 12H).

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one | 0.968 mmol, 0.583 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C36H51NO3Si2
reactant | 3,4-dimethoxybenzeneboronic acid | 1.94 mmol, 0.353 g | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | triethylamine | 1.94 mmol, 0.27 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1.35 mL | C1CCOC1 | C4H8O
catalyst | copper (II) acetate | 0.968 mmol, 0.176 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(3,4-Dimethoxy-phenyl)-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 0.153 g, 31% | COC=1C=C(C=CC1OC)N1C(C(C2=CC=CC=C12)(C1=CC(=C(C(=C1)C)O)C)C1=CC(=C(C(=C1)C)O)C)=O | C32H31NO5
